* BF547W SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT323 DIE MODEL : BF547
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BF547W 1 2 3
Q1 6 5 7 7 BF547
* SOT323 parasitic model
               Lb  4 5 .6n 
               Le  7 8 .6n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .34n
              Ccb  4 6 100f
              Cbe  4 8 2f
*
* PHILIPS SEMICONDUCTORS                                     Version:     1.0
* Filename:    BF547.PRM                                     Date: March 1992
*
.MODEL  BF547   NPN
+              IS = 2.89100E-016
+              BF = 9.42900E+001
+              NF = 9.89200E-001
+             VAF = 9.00000E+001
+             IKF = 1.58600E-001
+             ISE = 4.26600E-016
+              NE = 1.49100E+000
+              BR = 1.23200E+001
+              NR = 9.89400E-001
+             VAR = 1.93900E+001
+             IKR = 2.47500E-002
+             ISC = 2.49700E-014
+              NC = 1.20000E+000
+              RB = 5.00000E+001
+             IRB = 1.00000E-006
+             RBM = 5.00000E+001
+              RE = 5.00000E-001
+              RC = 1.30900E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 1.07100E-012
+             VJE = 7.27300E-001
+             MJE = 3.32100E-001
+              TF = 9.29800E-011
+             XTF = 4.38900E+001
+             VTF = 1.81300E+000
+             ITF = 1.43900E-001
+             CJC = 1.16700E-012
+             VJC = 4.89000E-001
+             MJC = 2.52700E-001
.ENDS

